US09227976B2
Step 5: 1-methyl-5-phenyl-4-(2-phenylethynyl)pyrazol-3-amine
A mixture of 2-[1-methyl-5-phenyl-4-(2-phenylethynyl)pyrazol-3-yl]isoindoline-1,3-dione (300 mg, 0.74 mmol), ethanol (5 mL) and hydrazine hydrate (56 μL, 1.11 mL) was stirred in a sealed tube at 90° C. for 1 h and cooled to room temperature. The reaction mixture was filtered. The filtrate was concentrated in vacuo and purified by column chromatography (silica gel, isohexane/ethyl acetate 7:3 to 1:1) yielding the title compound as a solid (150 mg).

reactant | 2-[1-methyl-5-phenyl-4-(2-phenylethynyl)pyrazol-3-yl]isoindoline-1,3-dione | 0.74 mmol, 300 mg | CN1N=C(C(=C1C1=CC=CC=C1)C#CC1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C26H17N3O2
reactant | hydrazine hydrate | 56 μL | O.NN
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-methyl-5-phenyl-4-(2-phenylethynyl)pyrazol-3-amine | 150 mg | CN1N=C(C(=C1C1=CC=CC=C1)C#CC1=CC=CC=C1)N | C18H15N3
